US08377923B2
An aqueous sodium hydroxide solution (2 ml) was added to a solution of ethyl 4-(trifluoromethyl)-1,3-thiazole-5-carboxylate (301 mg) in ethanol (3 ml), followed by stirring at room temperature for 4 hours. The reaction solution was concentrated under reduced pressure and water was added thereto, followed by washing with diethylether. A 1M hydrochloric acid (2 ml) was added to the aqueous layer, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to obtain 4-(trifluoromethyl)-1,3-thiazole-5-carboxylic acid (261 mg) as a light brown solid.

reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | ethyl 4-(trifluoromethyl)-1,3-thiazole-5-carboxylate | 301 mg | FC(C=1N=CSC1C(=O)OCC)(F)F | C7H6F3NO2S
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-(trifluoromethyl)-1,3-thiazole-5-carboxylic acid | 261 mg | FC(C=1N=CSC1C(=O)O)(F)F | C5H2F3NO2S
